US05464860
a) Preparation of 3-amino-5-benzyloxymethyl-1-methyl pyrazole
To a cooled (0° C.) suspension of N-(1-methyl-5-benzyloxymethylpyrazol-3-yl)-2,6-dimethyl benzamide (9 g, 0.025M) and sodium iodide (19 g, 0.125M) in acetonitrile (250 ml) was added boron trifluoride etherate (18,3 g, 0,125M) in acetonitrile (60 ml) under nitrogen atmosphere. After being stirred for 2 hours at room temperature and usual work-up, the crude material was purified by column chromatography on silica gel using CH2Cl2, then CH2Cl2 /CH3OH=97.5/2.5 and 95/5 as eluents to give 1.5 g (23%) of a white solid.

reactant | N-(1-methyl-5-benzyloxymethylpyrazol-3-yl)-2,6-dimethyl benzamide | 0.025M, 9 g | CN1N=C(C=C1COCC1=CC=CC=C1)NC(C1=C(C=CC=C1C)C)=O | C21H23N3O2
reactant | sodium iodide | 0.125M, 19 g | [I-].[Na+]
reactant | boron trifluoride etherate | 0,125M, 18,3 g | B(F)(F)F.CCOCC
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 3-amino-5-benzyloxymethyl-1-methyl pyrazole | 1.5 g, 23% | NC1=NN(C(=C1)COCC1=CC=CC=C1)C | C12H15N3O
